US04975435
c. 2-[(Cyanomethyl)aminomethylene]heptanonitrile
2-Formylheptanonitrile (10.7 g), sodium acetate (7.9 g) and aminoacetonitrile hydrochloride (8.9 g) were mixed together in 200 ml of methanol:water (8:2). After stirring for 2 hours at ambient temperature the methanol was removed under aspirator vacuum and the residue partitioned between ethyl acetate and water. The layers were separated and the ethyl acetate layer was washed with brine, dried (Na2SO4) and concentrated to leave a yellow oil. Chromatographic purification of the material over silica gel using ethyl acetate/hexane as the eluent afforded a light yellow solid as a mixture of isomers (11.6 g, 85%); tlc, Rf =0.37 and 0.50 silica gel, ethyl acetate:hexane (1:1).

reactant | 2-Formylheptanonitrile | 10.7 g | C(=O)C(C#N)CCCCC | C8H13NO
reactant | sodium acetate | 7.9 g | C(C)(=O)[O-].[Na+]
reactant | aminoacetonitrile hydrochloride | 8.9 g | Cl.NCC#N
reactant | methanol | CO | CH4O
solvent | methanol water | 200 ml | CO.O
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-[(Cyanomethyl)aminomethylene]heptanonitrile | C(#N)CNC=C(C#N)CCCCC | C10H15N3
